US08008350B2
i) 4-bromo-1-(phenylsulfonyl)-2-(trifluoromethyl)benzene
The subtitle compound was prepared by the method of example 2 step (i) using 4-bromo-2-(trifluoromethyl)benzenesulfonyl chloride and benzene.

reactant | 4-bromo-2-(trifluoromethyl)benzenesulfonyl chloride | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3BrClF3O2S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-bromo-1-(phenylsulfonyl)-2-(trifluoromethyl)benzene | BrC1=CC(=C(C=C1)S(=O)(=O)C1=CC=CC=C1)C(F)(F)F | C13H8BrF3O2S
